US06559173B1
Under Ar(g), a solution of anhydrous acetonitrile (0.506 mL) in 25 mL anhydrous THF is cooled to −78° C. in a dry ice-acetone bath and then treated in dropwise fashion with 6.0 mL of a 1.6 M n-butyl lithium in hexanes. The reaction mixture is maintained at −78° C. for an additional 1 h and subsequently treated in dropwise fashion with a solution of 5 gms. of (2,4,6-trimethyl-phenyl)-acetic acid ethyl ester in 25 mL of anhydrous THF. The resulting solution is then stirred 5 h at room temperature. Subsequently, the reaction mixture is acidified (pH 7-8) with dropwise addition of conc. HCl and a 1 M HCl(aq) solution. The quenched reaction mixture is then partitioned between water and ethyl acetate. The organic layer is dried over anhydrous Na2SO4, filtered and concentrated in vacuo to yield the desired 3-oxo-4-(2,4,6-trimethyl-phenyl)-butyronitrile as a yellow-white solid in the amount of 1.41 gms. (72% yield).

reactant | acetonitrile | 0.506 mL | C(C)#N | C2H3N
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | (2,4,6-trimethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1C)C)C)=O | C13H18O2
reactant | HCl | Cl | ClH
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-oxo-4-(2,4,6-trimethyl-phenyl)-butyronitrile | 72% yield | O=C(CC#N)CC1=C(C=C(C=C1C)C)C | C13H15NO
